US07169810B2
(c) Ethyl (2S)-2-ethoxy-3-{4-[4-(4-nitrophenyl)butoxy]phenyl}propanoate
(S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid ethyl ester (1.0 g, 4.197 mmol) and 4-(4-nitrophenyl)butyl methanesulfonate (1.204 g, 4.406 mmol) were mixed in acetonitrile (20 ml). Potassium carbonate (anhydrous, 870 mg, 6.295 mmol) was added. The mixture was heated to reflux overnight. It was then evaporated in vacuum. Water and ethyl acetate were added into the residue. The two phases were separated. The organic phase was washed with water and brine and dried with magnesium sulfate. The solvent was removed by evaporation in vacuum. Column chromatography of the residue on silica gel using ethyl acetate/heptane (25:75) as eluant gave the desired product (1.62 g), yield 93%.

reactant | (S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid ethyl ester | 4.197 mmol, 1.0 g | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | 4-(4-nitrophenyl)butyl methanesulfonate | 4.406 mmol, 1.204 g | CS(=O)(=O)OCCCCC1=CC=C(C=C1)[N+](=O)[O-] | C11H15NO5S
reactant | Potassium carbonate | 6.295 mmol, 870 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Ethyl (2S)-2-ethoxy-3-{4-[4-(4-nitrophenyl)butoxy]phenyl}propanoate | 1.62 g, yield 93% | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)OCCCCC1=CC=C(C=C1)[N+](=O)[O-] | C23H29NO6
